US08198267B2
1-(2-Methoxy-4-nitrophenyl)-3-methyltetrahydropyrimidin-2(1H)-one
450 mg (3.94 mmol) of 1-methyltetrahydropyrimidin-2(1H)-one in 15 ml of DMF are admixed at 0° C. with 663 mg (5.91 mmol) of potassium tert-butoxide, and the mixture is stirred at room temperature for 30 min. 742 mg (4.33 mmol) of 1-fluoro-2-methoxy-4-nitrobenzene are added and the mixture is stirred at RT. After 2 h, the mixture is admixed with 150 ml of water and 8 ml of saturated aqueous sodium chloride solution, and extracted three times with 30 ml each time of ethyl acetate. The combined organic phases are washed with 30 ml of water and then dried over sodium sulfate. After filtration, the solvents are removed under reduced pressure. The residue is purified by chromatography on silica gel (1:5→1:10 cyclohexane/ethyl acetate). This affords 457 mg (43% of theory) of the desired compound.

reactant | 1-methyltetrahydropyrimidin-2(1H)-one | 3.94 mmol, 450 mg | CN1C(NCCC1)=O | C5H10N2O
reactant | potassium tert-butoxide | 5.91 mmol, 663 mg | CC(C)([O-])C.[K+]
reactant | 1-fluoro-2-methoxy-4-nitrobenzene | 4.33 mmol, 742 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | sodium chloride | 8 ml | [Cl-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
product | 1-(2-Methoxy-4-nitrophenyl)-3-methyltetrahydropyrimidin-2(1H)-one | COC1=C(C=CC(=C1)[N+](=O)[O-])N1C(N(CCC1)C)=O | C12H15N3O4
